US08648068B2
I.2: (S)-tert-butyl 3-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate
To a solution of (S)-tert-butyl 3-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate (6.41 g) in MeOH (70.0 ml) was added palladium on charcoal (600.0 mg), the mixture hydrogenated at room temperature and 50 psi. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica chromatography to give the desired product.

reactant | (S)-tert-butyl 3-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate | 6.41 g | FC=1C=CC(=C(O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C16H21FN2O5
solvent | MeOH | 70.0 ml | CO | CH4O
catalyst | palladium on charcoal | 600.0 mg | [Pd] | Pd
product | (S)-tert-butyl 3-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate | NC1=C(O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C=C1)F | C16H23FN2O3
